US04342587
Methyl 2-{[(4-chloro-6-methoxy-5-methylpyrimidin-2-yl)aminocarbonyl]aminosulfonyl}benzoate
To 1.0 g of 2-amino-4-chloro-6-methoxy-5-methylpyrimidine in 35 ml of anhydrous acetonitrile, with stirring at ambient temperature, was added 1.5 g of methyl 2-(isocyanatosulfonyl)benzoate. The mixture was stirred for 3 hours, heated to 50° and allowed to cool. The solid precipitate thus obtained was filtered off and washed with 1-chlorobutane. It melted at 204°-205° and showed infrared absorption peaks at 1740, 1710, 1650 and 1510 cm-1, consistent for the above-named product.

reactant | 2-amino-4-chloro-6-methoxy-5-methylpyrimidine | 1.0 g | NC1=NC(=C(C(=N1)Cl)C)OC | C6H8ClN3O
reactant | methyl 2-(isocyanatosulfonyl)benzoate | 1.5 g | N(=C=O)S(=O)(=O)C1=C(C(=O)OC)C=CC=C1 | C9H7NO5S
solvent | acetonitrile | 35 ml | C(C)#N | C2H3N
product | Methyl 2-{[(4-chloro-6-methoxy-5-methylpyrimidin-2-yl)aminocarbonyl]aminosulfonyl}benzoate | ClC1=NC(=NC(=C1C)OC)NC(=O)NS(=O)(=O)C1=C(C(=O)OC)C=CC=C1 | C15H15ClN4O6S
